US07495016B2
10.2 Preparation of 1-(3-aminophenyl)-4-(3-benzyloxy-4-methoxyphenyl)-pyrrolidin-2-one
To a solution of 4-(3-benzyloxy-4-methoxyphenyl)-1-(3-nitrophenyl)-pyrrolidin-2-one (100 mg) in EtOAc/EtOH (2 mL, 1:1) was added Raney Ni. The mixture was then put under vacuum and recharged with H2. The mixture was stirred under H2 for 10 h. After filtration, concentration gave crude product.

reactant | 4-(3-benzyloxy-4-methoxyphenyl)-1-(3-nitrophenyl)-pyrrolidin-2-one | 100 mg | C(C1=CC=CC=C1)OC=1C=C(C=CC1OC)C1CC(N(C1)C1=CC(=CC=C1)[N+](=O)[O-])=O | C24H22N2O5
solvent | EtOAc EtOH | 2 mL | CCOC(=O)C.CCO
catalyst | Ni | [Ni] | Ni
product | 1-(3-aminophenyl)-4-(3-benzyloxy-4-methoxyphenyl)-pyrrolidin-2-one | NC=1C=C(C=CC1)N1C(CC(C1)C1=CC(=C(C=C1)OC)OCC1=CC=CC=C1)=O | C24H24N2O3
